* Resistor value test

* Include SkyWater sky130 device models
.lib "../../../models/sky130.lib.spice" tt

* Simple voltage across a modeled device resistor
V1 0 A DC 1.8

X1 0 A 0 sky130_fd_pr__res_generic_pd l=10

.control
op lin 0 3.3
run
echo resistance
print V(A)/V1#branch
quit
.endc

.end
